US06248912B1
Chloro-2-indenyldimethylsilane (4.95 g, 0.023 mol.) according to Example 1 was dissolved in 20 ml of diethyl ether. The solution was cooled to 0° C., and a solution of lithium indene (1.94 g, 0.022 mol.) in 25 ml of diethyl ether was added dropwise. The mixture was stirred for 2 hours at 25° C. and then heated to reflux. For working up, 60 ml of water were added and the organic phase was washed with water again and dried over Na2SO4. After removal of the solvents under an oil pump vacuum, the light-yellow oil that remained was purified by means of column chromatography. 3.23 g (47%) of 1-indenyl-2-indenyl-dimethylsilane were obtained in the form of a colorless oil which crystallized in the refrigerator at 4° C. M.p.: 45° C.

reactant | Chloro-2-indenyldimethylsilane | 0.023 mol, 4.95 g | Cl[Si](C)(C)C=1CC2=CC=CC=C2C1 | C11H13ClSi
reactant | lithium indene | 0.022 mol, 1.94 g | C1C=CC2=CC=CC=C12.[Li]
reactant | water | 60 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 1-indenyl-2-indenyl-dimethylsilane | 3.23 g, 47% | C1(C=CC2=CC=CC=C12)C1C(=CC2=CC=CC=C12)[SiH](C)C | C20H20Si
